US04205170
The mixture of 30 mg of 2-(5,6-dihydro benzo[b]pyrido[3,2-f]-oxepin-8-yl)-propionic acid in 0.5 ml of ethanol and 2 ml of ethanol saturated with hydrogen chloride gas was stirred at room temperature for 1 hour. The mixture was alkalified with saturated sodium hydrogencarbonate and extracted with chloroform. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain oily substance, which was chromatographed over silica gel, eluted with chloroform/benzene(1/4-1/3), and there was obtained 30 mg of ethyl 2-(5,6-dihydro benzo[b]pyrido-[3,2-f]oxepin-8-yl)-propionate as colorless oil.

reactant | 2-(5,6-dihydro benzo[b]pyrido[3,2-f]-oxepin-8-yl)-propionic acid | 30 mg | N1=CC=CC=2CCC3=C(OC21)C=CC(=C3)C(C(=O)O)C | C16H15NO3
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | ethyl 2-(5,6-dihydro benzo[b]pyrido-[3,2-f]oxepin-8-yl)-propionate | 30 mg | N1=CC=CC=2CCC3=C(OC21)C=CC(=C3)C(C(=O)OCC)C | C18H19NO3
